US07842685B2
Ethylmagnesium bromide (1 M solution in t-butyl methyl ether) (0.764 mL, 0.764 mmol) was added at −78° C. to a solution of 3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzonitrile (0.113 g, 0.306 mmol) and titanium (iv) isopropoxide (0.098 mL, 0.336 mmol) in ethyl ether (3 mL) and toluene (3 mL) under argon. After stirring at −78° C. for 10 min, the yellow solution was allowed to warm to room temperature (1 h), during which boron trifluoride diethyl etherate (0.023 mL, 0.187 mmol) was added. After the reaction mixture was stirred for 1 h, 1 N HCl (ca. 0.5 mL) and CH2Cl2 were added. NaOH (10% aq, ca. 1 mL) was added to the resulting two clear phases and the mixture was extracted with CH2Cl2. The combined CH2Cl2 layers were dried (MgSO4), filtered, and concentrated in vacuo. ISCO purification with 10% MeOH/CH2Cl2 failed to give a pure batch of 1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo-[5,4-b]pyridine-2-yl)phenyl)cyclopropanamine. Further purification on the reverse phase prep. HPLC provided the title compound as an off-white solid. MS (ESI) m/z: Calculated: 401.1; Observed: 402.1 (M++1).

reactant | Ethylmagnesium bromide | 0.764 mmol, 1 M, 0.764 mL | C(C)[Mg]Br
reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzonitrile | 0.306 mmol, 0.113 g | FC=1C=C(C#N)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H14FN3S
reactant | boron trifluoride diethyl etherate | 0.187 mmol, 0.023 mL | B(F)(F)F.CCOCC
reactant | HCl | 1 N, ca. 0.5 mL | Cl | ClH
reactant | NaOH | ca. 1 mL | [OH-].[Na+]
solvent | ethyl ether | 3 mL | C(C)OCC | C4H10O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium (iv) isopropoxide | 0.336 mmol, 0.098 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(3-fluoro-4-(5-(1-phenyl-cyclopropyl)thiazolo-[5,4-b]pyridine-2-yl)phenyl)cyclopropanamine | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C1(CC1)N | C24H20FN3S
